US04228170
N-Acetyl-8-chloro-7-mercapto-1,2,3,4-tetrahydroisoquinoline (24 g., 0.1 m.) is dissolved in tetrahydrofuran and treated with 300 ml. of 1 M diborane (0.3 m.). The mixture is refluxed, cooled, treated with water and then aqueous hydrochloric acid and evaporated to yield 8-chloro-N-ethyl-7-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride.

reactant | N-Acetyl-8-chloro-7-mercapto-1,2,3,4-tetrahydroisoquinoline | 24 g | C(C)(=O)N1CC2=C(C(=CC=C2CC1)S)Cl | C11H12ClNOS
reactant | diborane | 1 M | B#B | B2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-N-ethyl-7-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC=1C(=CC=C2CCN(CC12)CC)S | InChI=1S/C11H14ClNS.ClH/c1-2-13-6-5-8-3-4-10(14)11(12)9(8)7-13;/h3-4,14H,2,5-7H2,1H3;1H
